US08314117B2
(6S,9R)-6-(2,3-difluorophenyl)-6-hydroxy-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-yl 4-nitrobenzoate.
In a 250 mL round-bottom flask was dissolved (6S,9S)-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-6,9-diol (458 mg, 1.572 mmol) (azeotroped with dry benzene) in tetrahydrofuran (8 mL) to give a light orange solution. 4-Nitrobenzoic acid (394 mg, 2.358 mmol) and triphenylphosphine (619 mg, 2.358 mmol) were added under nitrogen. Diisopropyl azodicarboxylate (0.464 mL, 2.358 mmol) was added dropwise. The mixture was allowed to stir overnight. After 15 h, LCMS showed complete conversion, but the desired product was a minor component. It was concentrated to a light yellow oil and directly purified by FCC (5% ethyl acetate/hexanes to 100%) to afford the desired product (125 mg, 18%) as a white solid. MS(ESI)[M+H+]=441.20.

reactant | (6S,9S)-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-6,9-diol | 1.572 mmol, 458 mg | FC1=C(C=CC=C1F)[C@]1(CC=2C(=NC=CC2)[C@H](CC1)O)O | C16H15F2NO2
reactant | 4-Nitrobenzoic acid | 2.358 mmol, 394 mg | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | triphenylphosphine | 2.358 mmol, 619 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diisopropyl azodicarboxylate | 2.358 mmol, 0.464 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | (6S,9R)-6-(2,3-difluorophenyl)-6-hydroxy-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-yl 4-nitrobenzoate | [N+](=O)([O-])C1=CC=C(C(=O)O[C@@H]2CC[C@@](CC=3C2=NC=CC3)(O)C3=C(C(=CC=C3)F)F)C=C1 | C23H18F2N2O5
